US04595753
A mixture of 9.0 g (0.8 mole) dimethyl divinyl silane and 32.7 g (0.176) diphenyl phosphine (10% excess over equivalent amounts) was reacted for 22 hours in the manner described in Example 1. The reaction mixture was fractionated in vacuo to obtain minor amounts of the clear, colorless, slightly viscous liquid monoadduct, and major amounts of the clear, colorless, highly viscous liquid diadduct, i.e. the desired bis-(diphenylphosphinoethyl)dimethyl silane. The distillation yield of desired product was 84%. The bis-diphenylphosphinoethyl)dimethyl silane product had a boiling point of 238°-239° at 0.20 mm.

reactant | dimethyl divinyl silane | 0.8 mole, 9.0 g | C[Si](C=C)(C=C)C | C6H12Si
reactant | diphenyl phosphine | 32.7 g | C1(=CC=CC=C1)PC1=CC=CC=C1 | C12H11P
product | bis-(diphenylphosphinoethyl)dimethyl silane | C1(=CC=CC=C1)P(C1=CC=CC=C1)CC[Si](C)(C)CCP(C1=CC=CC=C1)C1=CC=CC=C1 | C30H34P2Si
